Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
A.C.E Inhibitors
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
- Cardiac catheterization
- Dual-chamber ICD placement

 
History of Present Illness:
___ year old male with history of MI managed medically in ___ as 
had non-intervenable lesion, HTN, dyslipedemia presents with 
hemodynamically stable VT. Patient was outside chipping ice off 
the sidewalk at 11 am this morning initially asymptomatic 
suddently felt his heart racing, shortness of breath, and 
lightheadedness and subsequent chest pain in the setting of 
palpitations. Patient took 2 nitroglycerin tablets at home with 
some mild relief however continued to have SOB, palpitations, 
and lightheadedness.
.
On arrival to the ED patient found to be in ventricular 
tachycardia with HR in 200s with stable BP 100/60s. In the ED 
they began to push 150 mg of amiodarone but during the 
administration patient converted to sinus. EP was called in the 
ED and consulted. Patient remained hemodynamically stable 
throughout.
.
Once rate was controlled, patient was asymptomatic and denied 
any continued chest pain, shortness of breath, dizziness, 
palpitations or lightheadedness.
.
Other review of systems was negative. Of note, patient's wife is 
recently deceased and he reports intermittent chest pain with 
anxiety since then. 
 
Past Medical History:
Hypertension
MI (___), treated at ___
Dyslipidemia
.
Cardiac Risk Factors: -Diabetes, +Dyslipidemia, +Hypertension
.
Percutaneous coronary intervention: unknown anatomy from ___ 
catherization in ___, patient does not think that he had an 
intervention
 
Social History:
___
Family History:
Father died at ___ from MI, mother passed away from cancer, aunt 
and uncle also died from CAD in their ___. 
 
Physical Exam:
VS - Temp 99.1, BP 110/66, P 62, R 16, 100% on RA
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva 
non-injected, no pallor or cyanosis of the oral mucosa. No 
xanthalesma. no carotid bruits.
Neck: JVP flat.
CV: PMI located in ___ intercostal space, midclavicular line.
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
Chest: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. CTAB, no crackles,
wheezes or rhonchi.
Abd: Soft, NT, ND. No HSM or tenderness. No abdominial bruits.
Ext: No c/c/e.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas
Pulses:
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
 
Pertinent Results:
CHEST AP (___): No acute cardiopulmonary abnormality.

TTE (___):  The left atrium and right atrium are normal in 
cavity size. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity is moderately dilated. No masses or thrombi 
are seen in the left ventricle. LV systolic function appears 
moderately-to-severely depressed (ejection fraction 30 percent) 
secondary to extensive apical akinesis with focal dyskinesis; 
there is sever hypokinesis of the anterior septum and anterior 
free wall; the posterior wall is also hypokinetic. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild to moderate (___) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion.

CARDIAC CATHERIZATION (___):
1. Severe single vessel and moderate LMCA coronary artery 
disease, with atherosclerosis elsewhere and diffuse slow flow 
consistent with microvascular dysfunction.
2. Normal cardiac index.
3. Mildly elevated PCW suggestive of mild left ventricular 
diastolic dysfunction.

MR CARDIAC ___ (___):
1. Moderate left ventricular enlargement with moderate regional 
left ventricular systolic dysfunction. There were multiple 
regional wall motion abnormalities with apical dyskinesis. Basal 
septal, mid septal, basal ___- septal, mid ___, mid 
anterior segments, basal inferior and mid inferior segments were 
hypokinetic. Late gadolinium contrast-enhanced CMR images 
demonstrating areas of transmural hyperenhancement in the apex 
and non- transmural hyperenhancement in the mid anterior, mid 
___- septal and basal ___ segments as described 
above. The LVEF was moderately decreased at 38%. The effective 
forward LVEF was moderately decreased at 37%.
2. Normal right ventricular cavity size and systolic function. 
The RVEF was normal at 57%.
3. No significant valvular abnormalities
4. The indexed diameters of the ascending and descending 
thoracic aorta were normal. The main pulmonary artery diameter 
index was borderline increased.
5. Normal coronary artery origins with no evidence of anomalous 
coronary arteries. Probable significant proximal LAD stenosis 
and mid LAD occlusion. Recommend further correlation with 
coronary angiography.

BILAT LOWER EXT VEINS (___): Acute occlusive thrombus in the 
right greater saphenous vein, extending to within 1.3 cm of the 
saphenofemoral junction. Though this thrombus is located within 
a superficial vein, treatment is often considered given the 
position.

CHEST PA/LAT ___ right atrial pacer and right 
ventricular pacemaker leads follow their expected courses 
continuously from the left axillary pacemaker, new since ___. Lungs are fully expanded and clear, though attenuation of 
vasculature in the upper lungs suggests edema. Lower lungs 
clear. Heart size normal. No pleural effusion, mediastinal 
widening or pneumothorax.

___ 05:50AM BLOOD %HbA1c-5.3
___ 09:00AM BLOOD Triglyc-26 HDL-61 CHOL/HD-2.4 LDLcalc-80
___ 09:49PM BLOOD CK-MB-44* MB Indx-9.4* cTropnT-1.52*
___ 07:00AM BLOOD cTropnT-1.03*
 
Brief Hospital Course:
___ year-old male with previous anterior MI (___) managed 
medically, hypertension, hyperlipidemia admitted with chest pain 
on ___ and found to have NSTEMI and ventricular tachycardia. 
Hospital course was as follows.

1. NSTEMI:  Patient presented to the emergency department with 
chest pain. First set of cardiac enzymes was normal. Second 
troponin 1.5 with CK 466. Wide complex tachycardia was seen on 
EKG. Patient was taken to cardiac catheterization and no stents 
were placed; cardiac catheterization demonstrated severe single 
vessel coronary artery disease, preserved cardiac output, and 
mild LV diastolic dysfunction. Patient also underwent cardiac 
MRI; results are above. To optimize medication regimen, statin 
dose was increased. Patient was continued on aspirin, 
beta-blocker. Plavix was given briefly. Of note, lipid panel 
revealed total cholesterol 146, triglycerides 26, HDL 61, LDL 
80. A1c 5.8.

2. Ventricular tachycardia:  On arrival to the emergency 
department patient was noted to have a wide complex tachycardia 
with heart rate 200s, BP 100/60s. In the emergency department he 
began receiving amiodarone 150mg; this was stopped after the 
patient converted to a sinus rhythm. Patient remained 
hemodynamically stable throughout. EP was consulted. The 
arrhythmia was thought to be secondary to scar tissue from a 
previous myocardial infarction. Ablation of the scar tissue was 
not performed in the EP lab given that the arrhythmia could not 
be provoked. Patient continued to have short, asymptomatic runs 
of NSVT on telemetry. A dual chamber ICD was placed on ___. 
Throughout the remainder of the hospital course patient 
continued to have frequent PVCs but no ventricular tachycardia.

3. Chronic ischemic systolic heart failure:  On TTE patient was 
noted to have extensive apical akinesis with focal dyskinesis; 
severe hypokinesis of the anterior septum, anterior free wall, 
and posterior wall. LVEF 30%. He did not appear fluid overloaded 
on exam.  An ___ was started. Given the ability to pace with the 
ICD, his beta-blocker dose was increased to optimize the heart 
failure medication regimen.

4. Hypertension:  sBP around 100 on admission. ___ was started 
and beta-blocker dose changed as above. Patient tolerated these 
changes well.

5. Gout:  Left foot MP joint inflamed. Colchicine was started 
with little benefit. Prednisone 20mg PO was started for short 
course with desired effect.

6. Right greater saphenous vein occlusive thrombus:  Incidental 
finding. Source is not known. Patient was temporarily on heparin 
drip to bridge to therapeutic coumadin dose. He developed a 
hematoma at his groin and had mild oozing at the ICD placement 
site. Heparin therapy was stopped, and the patient was sent out 
on coumadin therapy with close follow-up.
 
Medications on Admission:
Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO once a 
day.
Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One-half Tablet PO DAILY (Daily).  

2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day. 
Tablet(s) 
5. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
6. Warfarin 5 mg Tablet Sig: One (1) Tablet PO at bedtime: 
Please take first tablet on ___. On ___ morning, 
have your blood checked at Dr. ___. Your dose 
will be readjusted then.
Disp:*30 Tablet(s)* Refills:*0*
7. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 7 doses.
Disp:*7 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Ventricular tachycardia
- NSTEMI
- Gout

Secondary: 
- Hypertension
- Coronary artery disease
- History of myocardial infarction
- Dyslipidemia

 
Discharge Condition:
Ambulatory. Hemodynamically stable.

 
Discharge Instructions:
You were admitted to the hospital with ventricular tachycardia, 
an abnormal heart rhythm. You were also found to have some 
damage to your heart, and subsequently underwent a cardiac 
catherization and an MRI of your heart. For the abnormal rhythm, 
a defibrillator was placed by the electrophysiology team.
.
Your studies in the hospital suggest that you have heart 
failure, which is an inability of your heart to fully pump blood 
forward. Because of this, it is very important that you weigh 
yourself every morning and call your physician if weight 
increases by 3lbs. Please also adhere to a 2 gram sodium diet 
and restrict daily fluid intake to 2000ml.
.
We also found a blood clot in your right leg. You were 
temporarily put on an IV blood thinner, and you should start 
taking an oral blood thinner on ___ night. You have a 
hematoma (collection of blood) near your groin on the right 
side. You can use warm compresses for discomfort.
.
Your medication regimen has changed. Please review your 
medication list closely.
1) Your cholesterol medication was changed to atorvastatin.
2) The dose and frequency of your metoprolol was changed.
3) You were started on losartan in the setting of your heart 
failure and allergy to ACE inhibitors.
4) You were started on a short course of antibiotics to help 
reduce the risk of infection at the defibrillator site.
6) Your aspirin dose was cut in half.
7) You were started on a blood thinner, coumadin.
Please review your medication list closely.

Please follow-up with your physicians as listed below.

Please return to the emergency department or call your physician 
for any worsening chest pain, shortness of breath, abdominal 
pain, back pain, bleeding or increased tenderness or redness at 
the defibrillator site, or for any other symptoms that are 
concerning to you. Also, please contact your doctor for 
worsening swelling or pain at the groin site.
 
Followup Instructions:
___